US08314240B2
4.20 g of 5-(methoxymethoxy)-6-nitroindane was dissolved in 42.0 mL of methanol, and 500 mg of 10% palladium carbon was added thereto, followed by stirring at room temperature for 6 hours under a hydrogen atmosphere. After the catalyst was removed by filtration, the filtrate was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain 3.30 g of 6-(methoxymethoxy)indan-5-amine.

reactant | 5-(methoxymethoxy)-6-nitroindane | 4.20 g | COCOC=1C=C2CCCC2=CC1[N+](=O)[O-] | C11H13NO4
solvent | methanol | 42.0 mL | CO | CH4O
catalyst | palladium carbon | 500 mg | [C].[Pd]
product | 6-(methoxymethoxy)indan-5-amine | 3.30 g | COCOC1=C(C=C2CCCC2=C1)N | C11H15NO2
